US04833146
7-Benzyl-3-methylxanthine
20 g (0.5 mol) of sodium hydroxide dissolved in 200 ml of water are added to a suspension of 83 g (0.5 mol) of 3-methylxanthine in 500 ml of methanol, the mixture is stirred at 70° C. for one hour, 85.5 g (0.5 mol) of benzyl bromide are then added dropwise at the same temperature and the reaction mixture is kept between 70° and 80° C. for 5 hours. It is then cooled and filtered cold with suction, the product on the suction filter is washed with water and dissolved in 1000 ml of 1N sodium hydroxide solution under the influence of heat, the solution is filtered and the pH is brought slowly to 9.5 with 4N hydrochloric acid, while stirring. The crystals are filtered off from the still warm solution, washed with water until free from chloride and dried in vacuo.

reactant | sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
reactant | 3-methylxanthine | 0.5 mol, 83 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | benzyl bromide | 0.5 mol, 85.5 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 200 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | 7-Benzyl-3-methylxanthine | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C | C13H12N4O2
